US05010100
3-(N,N,N-trimethylammonio)-1-(3,4,5-trimethoxyphenyl)propan-1-one iodide (355.9 g, 0.87 mole) was suspended in a mixture of water (3.56 L) and of ethyl acetate (2.54 L) and refluxed with rapid stirring for 2-3 hours. The mixture was cooled and the pale yellow organic layer was removed. Fresh ethyl acetate (2 L) was added and the mixture was refluxed for 1 hour, and the process was repeated once again. The organic layers were combined, washed with brine, dried over anhydrous MgSO4, and evaporated to dryness to provide a yellow oil, which was crystallized from hexane/ether to give 3,4,5-trimethoxyphenylvinyl ketone (m.p. 45°-47° C.). 200 MHz 1H NMR (CDCl3): δ 3.94 (9H, s, 3 OCH3), 5.92 (1H, dd, J=1.5 Hz, J=9 Hz), 6.44 (1H, dd, J=1.5 Hz, J=1.5 Hz, J=16 Hz), 7.18 (1H, dd, J=16 Hz, J=9 Hz), 7.28 (2H, H2 and H6).

reactant | 3-(N,N,N-trimethylammonio)-1-(3,4,5-trimethoxyphenyl)propan-1-one iodide | 0.87 mole, 355.9 g | [I-].C[N+](C)(C)CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC
reactant | ethyl acetate | 2.54 L | C(C)(=O)OCC | C4H8O2
reactant | water | 3.56 L | O | H2O
product | 3,4,5-trimethoxyphenylvinyl ketone | COC=1C=C(C=C(C1OC)OC)C=CC(=O)C=CC1=CC(=C(C(=C1)OC)OC)OC | C23H26O7
